US04874775
N-[2-(2,2,2-trifluoroethoxy)phenyl]-N-(pyridin-3-ylmethyl)-methanesulfonamide
A 3 g. portion of 3-[2-(2,2,2-trifluoroethoxy)phenylaminomethyl]pyridine was dissolved in 15 ml. of dichloromethane and 2.6 g. of methanesulfonic anhydride was added. The mixture was stirred at ambient temperature for 2 days, and was then diluted with 20 ml. of aqueous sodium bicarbonate, and extracted with dichloromethane. The organic solution was washed with water, dried over magnesium sulfate and partially evaporated under vacuum. The residual solution was applied to a silica gel column and eluted with ethyl acetate. The product-containing fractions were combined and evaporated under vacuum to obtain 0.54 g. of the desired product, m.p. 80°-84°.

reactant | 3-[2-(2,2,2-trifluoroethoxy)phenylaminomethyl]pyridine | FC(COC1=C(C=CC=C1)NCC=1C=NC=CC1)(F)F | C14H13F3N2O
reactant | methanesulfonic anhydride | CS(=O)(=O)OS(=O)(=O)C | C2H6O5S2
solvent | dichloromethane | ClCCl | CH2Cl2
product | N-[2-(2,2,2-trifluoroethoxy)phenyl]-N-(pyridin-3-ylmethyl)-methanesulfonamide | FC(COC1=C(C=CC=C1)N(S(=O)(=O)C)CC=1C=NC=CC1)(F)F | C15H15F3N2O3S
